US06218431B1
Step A: Diethyl 2,6-diisopropyl-4-(2-iodophenyl)pyridine-3,5-dicarboxylate
Prepared from 2-iodobenzaldehyde, ethyl isobutyrylacetate and concentrated ammonium hydroxide by the procedures described in Example 125, Steps A-B. 1H NMR (300 MHz, CDCl3): δ 0.94 (t, J=7.0 Hz, 6 H), 1.30 (d, J=6.6 Hz, 6 H), 1.34 (d, J=6.6 Hz, 6 H), 3.19 (septet, J=6.6 Hz, 2 H), 4.0 (q, J=7.0 Hz, 4 H), 7.0-7.40 (m, 3 H), 7.85 (m, 1 H).

reactant | 2-iodobenzaldehyde | IC1=C(C=O)C=CC=C1 | C7H5IO
reactant | ethyl isobutyrylacetate | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | Diethyl 2,6-diisopropyl-4-(2-iodophenyl)pyridine-3,5-dicarboxylate | C(C)(C)C1=NC(=C(C(=C1C(=O)OCC)C1=C(C=CC=C1)I)C(=O)OCC)C(C)C | C23H28INO4
